US07560551B2
To 4,7-difluoroisobenzofuran-1,3-dione (1.00 g, 5.43 mmol) and sodium acetate (0.535 g, 6.52 mmol) was added water (14 mL), acetic acid (7.15 ml, 125 mmol) and hydrazine (0.205 ml, 6.52 mmol)(slowly). A water condenser was attached and the mixture was heated to reflux for 20 hours. Cooled to RT and filtered the resulting solid. Washed with water and dried to yield 5,8-difluoro-2,3-dihydrophthalazine-1,4-dione as a white solid.

reactant | 4,7-difluoroisobenzofuran-1,3-dione | 5.43 mmol, 1.00 g | FC1=C2C(OC(C2=C(C=C1)F)=O)=O | C8H2F2O3
reactant | sodium acetate | 6.52 mmol, 0.535 g | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 125 mmol, 7.15 ml | C(C)(=O)O | C2H4O2
reactant | hydrazine | 6.52 mmol, 0.205 ml | NN | H4N2
solvent | water | 14 mL | O | H2O
product | 5,8-difluoro-2,3-dihydrophthalazine-1,4-dione | FC1=C2C(NNC(C2=C(C=C1)F)=O)=O | C8H4F2N2O2
